US06887874B2
To a solution of 3-acetylmethyl-2-fluoro-1-methoxy-4-nitrobenzene (11.36 g, 50 mmol) in acetone (200 ml) was added 4M aqueous ammonium acetate (700 ml) followed by a solution of titanium trichloride (15% in water, 340 ml) dropwise. The mixture was stirred for 10 minutes at ambient temperature and the mixture was extracted with ether. The organic layer was washed with 0.5N aqueous sodium hydroxide followed by water, brine, dried (MgSO4) and the volatiles were removed under vacuum. The residue was purified by column chromatography eluting with methylene chloride to give 4-fluoro-5-methoxy-2-methylindole (8.15 g, 90%).

reactant | 3-acetylmethyl-2-fluoro-1-methoxy-4-nitrobenzene | 50 mmol, 11.36 g | C(C)(=O)CC=1C(=C(C=CC1[N+](=O)[O-])OC)F | C10H10FNO4
reactant | ammonium acetate | 4M, 700 ml | C(C)(=O)[O-].[NH4+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
catalyst | titanium trichloride | 340 ml | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 4-fluoro-5-methoxy-2-methylindole | 8.15 g, 90% | FC1=C2C=C(NC2=CC=C1OC)C | C10H10FNO
